data/mechanism_extracts/Chemistry/10.1002_chem.202005368_sup_1.json
{"doi": "10.1002_chem.202005368_sup_1", "journal": "Chemistry", "is_review": false, "rxn_class_summary": "Electrochemical radical trifluoromethylation/cyclization of N-aryl acrylamides bearing 2-aryl indoles followed by oxidative indole cleavage to give CF3-containing isoquinolinediones", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anode oxidizes CF3SO2Na (Langlois reagent) to generate CF3 radical (loss of SO2, e-); subsequent intermediates are further oxidized anodically through several SET steps, with cathode reducing H+/H2O to H2 and regenerating mediator", "key_intermediates": [{"name": "CF3 radical from anodic oxidation of CF3SO2Na", "smiles": "[CH0](F)(F)F", "role": "reactive"}, {"name": "alkyl radical A' after CF3 addition to acrylamide alkene", "smiles": null, "role": "reactive"}, {"name": "spirocyclic indolyl radical B' after radical cyclization onto indole C3", "smiles": null, "role": "reactive"}, {"name": "indolenium cation C' after anodic oxidation of B'", "smiles": null, "role": "transient"}, {"name": "deprotonated neutral spiro indoline (azafulvene-type) intermediate", "smiles": null, "role": "transient"}, {"name": "radical cation D' from further anodic SET", "smiles": null, "role": "transient"}, {"name": "hydroxylated adduct E' from H2O addition to radical cation", "smiles": null, "role": "transient"}, {"name": "dihydroxy intermediate F'/G' en route to C-C cleavage", "smiles": null, "role": "transient"}, {"name": "ring-opened diketo/ortho-acyl amide product 5 (3a) after oxidative C-C cleavage of indole", "smiles": null, "role": "reactive"}, {"name": "spirocyclic isoquinolinedione 3aa' (kinetic product, converts to 3a)", "smiles": null, "role": "transient"}], "electron_flow": "Anodic oxidation of CF3SO2Na releases CF3 radical, which adds to the acrylamide alkene; the resulting C-radical cyclizes onto the 2-aryl indole to give a spiro indolinyl radical, which undergoes sequential anodic SET oxidations and H2O additions to install two oxygens at the indole C2-C3 bond, ultimately cleaving the indole ring to the isoquinolinedione product. The cathode reduces protons to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product 3a formed in 0%; TEMPO-CF3 adduct detected by HRMS ([M+H]+ calc 226.1408, found 226.1427), supporting CF3 radical intermediate"}, {"name": "H2-18O", "smiles": "[18OH2]", "purpose": "isotope_label", "observation": "HRMS of product from reaction in H2-18O shows incorporation of one and two 18O atoms (m/z 468.0851 mono-18O and 470.0893 di-18O alongside 466.0818 unlabeled), confirming both carbonyl oxygens of cleavage product derive from water"}, {"name": "Time-course / reaction profile of 1a", "smiles": null, "purpose": "intermediate_trap", "observation": "3aa' accumulates early (up to ~47% at 4 h) then decays as 3a grows, indicating 3aa' is an on-pathway intermediate that is further oxidized/cleaved to 3a"}], "evidence_types_used": ["intermediate_trap_TEMPO", "H/D_labeling", "isotope_label", "product_isotope_distribution", "kinetic_order", "isolation_of_intermediate"], "evidence_strength": "strong", "notes": "Mechanism proposed for difluoroalkylation variant in Figure S6 is drawn analogously (CF2H instead of CF3) and invokes a Mn(II)/Mn(III) mediator in one cycle branch; alternative would be direct anodic SET without mediator. Spiro intermediate 3aa' is competent and converts to 3a, supporting an indole oxidative C-C cleavage by sequential water addition/SET rather than a single dioxygenation event."}
